US07932271B2
To an ethanol (2 ml) solution of O-ethyl S-(6-trifluoromethylpyridin-3-yl) dithiocarbonate (160 mg, 0.60 mmol) was added a 1N aqueous sodium hydroxide solution (2 ml). The resulting mixture was stirred at 65° C. for 2 hours. After the reaction mixture was cooled to room temperature and then, water was added thereto. The resulting mixture was washed with dichloromethane. The water layer was acidified with 1N hydrochloric acid, and the product was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated under reduced pressure to afford 6-trifluoromethylpyridine-3-thiol as a colorless oil.

reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | O-ethyl S-(6-trifluoromethylpyridin-3-yl) dithiocarbonate | 0.60 mmol, 160 mg | C(SC=1C=NC(=CC1)C(F)(F)F)(OCC)=S | C9H8F3NOS2
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 6-trifluoromethylpyridine-3-thiol | FC(C1=CC=C(C=N1)S)(F)F | C6H4F3NS
